US06417203B1
Benzyl 2-[3-{[3-({2-[(tert-Butoxycarbonyl)amino]ethoxy})phenethyl]amino}-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate
A mixture of benzyl 2-[3,5-dichloro-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate (preparation 17) (300 mg, 0.92 mmol), tert-butyl 2-[2-(aminomethyl)phenoxy]ethylcarbamate (preparation 128), (257 mg, 0.92 mmol) and triethylamine (140 ml, 1.0 mmol) in ethyl acetate (6 ml) was heated under reflux for 18 hrs. The cooled mixture was partitioned between ethyl acetate (80 ml) and hydrochloric acid (2N, 30 ml) and the phases separated. The organic layer was washed consecutively with hydrochloric acid (2N), saturated NaHCO3 solution, brine, then dried over MgSO4, and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel using ethyl acetate:pentane (50:50) as eluant to give the title compound as an orange foam, (500 mg, 95%).

reactant | benzyl 2-[3,5-dichloro-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate | 0.92 mmol, 300 mg | ClC1=C(N(C(C(=N1)Cl)=O)CC(=O)OCC1=CC=CC=C1)C | C14H12Cl2N2O3
reactant | tert-butyl 2-[2-(aminomethyl)phenoxy]ethylcarbamate | 0.92 mmol, 257 mg | NCC1=C(OCCNC(OC(C)(C)C)=O)C=CC=C1 | C14H22N2O3
reactant | triethylamine | 1.0 mmol, 140 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
product | Benzyl 2-[3-{[3-({2-[(tert-Butoxycarbonyl)amino]ethoxy})phenethyl]amino}-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate | 500 mg, 95% | C(C)(C)(C)OC(=O)NCCOC=1C=C(CCNC=2C(N(C(=C(N2)Cl)C)CC(=O)OCC2=CC=CC=C2)=O)C=CC1 | C29H35ClN4O6
